US07074798B2
a) 4-(1,3-Dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl)piperazine-1-carboxylic acid tert-butyl ester
8-Chlorotheophylline (3.5 g) and piperazine-1-carboxylic acid tert-butyl ester (11.69 g) were mixed, and stirred at 110° C. overnight. Then, the reaction mixture was diluted with ethyl acetate and water, insoluble white solid was collected by filtration, and washed with ethyl acetate to give 3.65 g of the title compound.

reactant | 8-Chlorotheophylline | 3.5 g | ClC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C7H7ClN4O2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 11.69 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(1,3-Dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl)piperazine-1-carboxylic acid tert-butyl ester | 3.65 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1)=O)C)=O)C | C16H24N6O4
